US04739113
Step C: 2,11-Dioxododecanedioic acid
A suspension of 350 mg (1.11 mmole) of diethyl 2,11-dioxododecanedioate in 10 ml of 5% potassium hydroxide solution was stirred at room temperature for 2 hours, by which time all of the material had gone into solution. The aqueous solution was acidified with concentrated HCl, and the product was extracted with ethyl acetate. The ethyl acetate phase was washed with water, dried over sodium sulfate and filtered. Concentration of the filtrate gave 250 mg of residue, which solidified. This material was used directly in the next reaction without purification.

reactant | diethyl 2,11-dioxododecanedioate | 1.11 mmole, 350 mg | O=C(C(=O)OCC)CCCCCCCCC(C(=O)OCC)=O | C16H26O6
reactant | HCl | Cl | ClH
solvent | potassium hydroxide | 10 ml | [OH-].[K+]
product | 2,11-Dioxododecanedioic acid | 250 mg | O=C(C(=O)O)CCCCCCCCC(C(=O)O)=O | C12H18O6
